US04064258
0.0455 Mole of bicyclo[2.2.1]hept-7-yl acetic acid is mixed with 20 ml. of thionyl chloride at room temperature and allowed to stand for 2 hours. The mixture is then warmed to 50° C and maintained at this temperature for another 2 hours. Excess thionyl chloride is then removed by distillation, under reduced pressure, affording a crude bicyclo[2.2.1]hept-7-yl acetyl chloride residue which is then dissolved in 50 ml. of ethyl ether and added dropwise to a concentrated aqueous ammonia solution (20 ml. of 58% wt. ammonia) at 0° C with rapid stirring. 200 Ml. of ethyl acetate is then added and the resulting mixture stirred. The organic layer is then decanted off and washed twice with water, dried over anhydrous magnesium sulfate and filtered. The filtrate is evaporated to dryness, under vacuum, affording bicyclo[2.2.1]hept-7-yl acetamide.

reactant | bicyclo[2.2.1]hept-7-yl acetic acid | 0.0455 Mole | C12CCC(CC1)C2CC(=O)O | C9H14O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | bicyclo[2.2.1]hept-7-yl acetyl chloride | C12CCC(CC1)C2CC(=O)Cl | C9H13ClO
